US05587379
Under a nitrogen atmosphere a stirred solution of 7.5 grams (0.025 mole) of 3-(4-trifluoromethylphenyl)phenyl bromide in 100 mL of tetrahydrofuran was cooled to about -78 ° C., and 10.0 mL (0.025 mole) of n-butyllithium (2.5 molar in hexane) was added dropwise. Upon completion of addition, the reaction mixture was stirred at -78 ° C. for about one hour. After this time a solution of 2.8 grams (0.025 mole) of 5-oxohexanenitrile in 10 mL of tetrahydrofuran was added dropwise. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature as it stirred for about 18 hours. After this time the reaction mixture was diluted with diethyl ether and partitioned between an aqueous dilute solution of hydrochloric acid and diethyl ether. The organic layer was separated and dried with sodium sulfate. The mixture was filtered and concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel, using 1:1 ethyl acetate and hexane as the eluant. The product-containing fractions were concentrated under reduced pressure, yielding about 3.0 grams of 5-hydroxy-5-[3-(4-trifluoromethylphenyl)phenyl]hexanenitrile. The NMR spectrum was consistent with the proposed structure. This reaction was repeated.

reactant | 3-(4-trifluoromethylphenyl)phenyl bromide | 0.025 mole, 7.5 grams | FC(C1=CC=C(C=C1)C=1C=C(C=CC1)Br)(F)F | C13H8BrF3
reactant | n-butyllithium | 0.025 mole, 2.5 molar, 10.0 mL | C(CCC)[Li]
reactant | 5-oxohexanenitrile | 0.025 mole, 2.8 grams | O=C(CCCC#N)C | C6H9NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-hydroxy-5-[3-(4-trifluoromethylphenyl)phenyl]hexanenitrile | about 3.0 grams | OC(CCCC#N)(C)C1=CC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3NO
